US05736548
To a solution of ethyl salicylate (100 g, 0.602 mol) in DMF (400 ml) was added K2CO3 (150 g), followed by the dropwise addition of allyl bromide (87.5 g, 0.723 mol). The reaction mixture was then heated on a steam bath for 2 hours, the K2CO3 was removed by filtration and the reaction mixture was poured into water and extracted with ethyl acetate (3×300 ml). The organic layer was washed with brine, and dried over MgSO4, and the solvent was removed to afford 122 g (98%) of ethyl 2-(2-propenyloxy)benzoate.

reactant | ethyl salicylate | 0.602 mol, 100 g | C(C=1C(O)=CC=CC1)(=O)OCC | C9H10O3
reactant | K2CO3 | 150 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 0.723 mol, 87.5 g | C(C=C)Br | C3H5Br
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | ethyl 2-(2-propenyloxy)benzoate | 122 g, 98% | C(C=C)OC1=C(C(=O)OCC)C=CC=C1 | C12H14O3
